US07148234B2
STEP 1. 2-{4-[(6-Nitro-1,3-benzodioxol-5-yl)amino]phenyl}ethanol
The title compound was prepared according to the procedure described in step 1 of Example 45 from 5-amino-6-nitro-1,3-benzodioxol and 4-bromophenylethyl alcohol.

reactant | 5-amino-6-nitro-1,3-benzodioxol | NC1=CC2=C(OCO2)C=C1[N+](=O)[O-] | C7H6N2O4
reactant | 4-bromophenylethyl alcohol | BrC1=CC=C(C=C1)CCO | C8H9BrO
product | 2-{4-[(6-Nitro-1,3-benzodioxol-5-yl)amino]phenyl}ethanol | [N+](=O)([O-])C=1C(=CC2=C(OCO2)C1)NC1=CC=C(C=C1)CCO | C15H14N2O5
